US06239131B1
Preparation of 1-[1-(2-toluoylmethyl)-2-oxo-5-(2,2-dimethylbutanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea
1-[1-(2-Toluoylmethyl)-2-oxo-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea (500 mg) was suspended in 1,2-dichloroethane (10 ml), 2,2-dimethylbutyryl chloride (144 mg) and pyridine (86 μl ) were added, and the mixture was refluxed for one hour and 30 minutes. Water (100 ml) and ethyl acetate (100 ml) were added to the reaction mixture, separated, the organic layer was washed with 1N hydrochloric acid, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography(n-hexane:ethyl acetate=2:1), to thereby obtain 248 mg of the titled compound.

reactant | 1-[1-(2-Toluoylmethyl)-2-oxo-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 500 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CNC2=C1C=C(C=C2)C)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O)C | C29H30N4O5
reactant | 2,2-dimethylbutyryl chloride | 144 mg | CC(C(=O)Cl)(CC)C | C6H11ClO
reactant | pyridine | 86 μl | N1=CC=CC=C1 | C5H5N
reactant | Water | 100 ml | O | H2O
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[1-(2-toluoylmethyl)-2-oxo-5-(2,2-dimethylbutanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 248 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(CC)(C)C)=O)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O)C | C35H40N4O6
